US05919793
A solution of 2-(4-bromo-2,6-dimethylphenoxy)ethanol (15 g) in methylene chloride (100 ml) was added to a stirred solution of sodium hydroxide (50 g) in water (50 ml) at 5° C. Dimethyl sulphate (8.6 ml) was added dropwise to the stirred solution at 5° C. over 30 minutes. The mixture was stirred at ambient temperature for 12 hours. Dimethylsulphate (5 ml) was added at ambient temperature and the mixture stirred for a further 2 hours. The mixture was cooled to 0° C. and a solution of ammonia (10 ml, density=0.88 g/cm3) was added. The mixture was stirred for 20 minutes, diluted with iced water (500 ml). The methylene chloride phase was removed and the aqueous phase extracted with methylene chloride (2×150 ml). The organic extracts were combined, washed with water (2×100 ml), saturated brine (100 ml) and evaporated. The residue was distilled using a short path distillation apparatus (furnace temperature 120° C./0.08 bar) to give 1-(4-bromo-2,6-dimethylphenoxy)-2-methoxyethane (11.6 g); NMR(CDCl3): 2.34(6H,s), 3.52(3H,s), 3.78(2H,m), 3.96(2H,m) and 7.2(2H,s).

reactant | 2-(4-bromo-2,6-dimethylphenoxy)ethanol | 15 g | BrC1=CC(=C(OCCO)C(=C1)C)C | C10H13BrO2
reactant | sodium hydroxide | 50 g | [OH-].[Na+]
reactant | Dimethyl sulphate | 8.6 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | Dimethylsulphate | 5 ml | COS(=O)(=O)OC | C2H6O4S
reactant | ammonia | 10 ml | N | H3N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | 1-(4-bromo-2,6-dimethylphenoxy)-2-methoxyethane | 11.6 g | BrC1=CC(=C(OCCOC)C(=C1)C)C | C11H15BrO2
